US07452911B2
3.17b 3-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-6-(2-pyrrolidin-1-yl-ethoxy)-pyridazine
Under an argon atmosphere 0.11 mL (0.79 mmol) triethylamine, 4 mg (0.01 mmol) chlorine(di-2-norbornylphosphino)(2′-dimethylamino-1-1′-biphenyl-2-yl)palladium(II) and 1.2 mg (0.01 mmol) CuI are added successively to a solution of 57 mg (0.27 mmol) 5-(4-chloro-phenyl)-2-ethynyl-pyridine and 61 mg (0.26 mmol) 3-chloro-6-(2-pyrrolidin-1-yl-ethoxy)-pyridazine in 3.0 mL DMF. The mixture is stirred for 20 min at 100° C. and 300 Watt in the microwave. The reaction solution is diluted with 10 mL water and the aqueous phase is extracted with 20 mL EtOAc. The organic phase is extracted with saturated NaCl solution and dried over Na2SO4. The solvent is eliminated i.vac. and further purification is carried out by column chromatography with HPLC-MS.

reactant | triethylamine | 0.79 mmol, 0.11 mL | C(C)N(CC)CC | C6H15N
reactant | 5-(4-chloro-phenyl)-2-ethynyl-pyridine | 0.27 mmol, 57 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
reactant | 3-chloro-6-(2-pyrrolidin-1-yl-ethoxy)-pyridazine | 0.26 mmol, 61 mg | ClC=1N=NC(=CC1)OCCN1CCCC1 | C10H14ClN3O
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
catalyst | CuI | 0.01 mmol, 1.2 mg | [Cu]I
product | 3-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-6-(2-pyrrolidin-1-yl-ethoxy)-pyridazine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1N=NC(=CC1)OCCN1CCCC1 | C23H21ClN4O
